US09375000B2
A mixture of the above-obtained mixture (1.29 g) containing 1-(6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methanamine, di-t-butyl dicarbonate (0.73 g), tetrahydrofuran (50 ml) and triethylamine (0.34 g) was stirred overnight at room temperature. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography to obtain t-butyl[(6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]-carbamate (0.97 g).

reactant | 1-(6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methanamine | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)Br)CN)C(F)(F)F)(F)F | C19H15BrF9N3
reactant | di-t-butyl dicarbonate | 0.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 0.34 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | t-butyl[(6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methyl]-carbamate | 0.97 g | C(C)(C)(C)OC(NCC=1C(=NC(=CC1)N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)Br)=O | C24H23BrF9N3O2
